US07534894B2
4 N HCl in dioxane (6.2 mL, 10 equiv) was added to a solution of (4′-tert-butoxycarbonylamino-biphenyl-4-yloxy)-acetic acid methyl ester (220 mg, 0.62 mmol), prepared in the previous step, in dioxane and the reaction stirred at room temperature for 2 h. The solid that formed was collected by filtration, rinsed with ethyl acetate and dried under reduced pressure to give 4′-(2-methoxy-2-oxoethoxy)-1,1′-biphenyl-4-aminium chloride (135 mg, 85%) as a white solid.

reactant | HCl | 4 N | Cl | ClH
reactant | (4′-tert-butoxycarbonylamino-biphenyl-4-yloxy)-acetic acid methyl ester | 0.62 mmol, 220 mg | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)=O | C20H23NO5
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 6.2 mL, 10 equiv | O1CCOCC1 | C4H8O2
product | 4′-(2-methoxy-2-oxoethoxy)-1,1′-biphenyl-4-aminium chloride | 135 mg, 85% | [Cl-].COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)[NH3+])=O | InChI=1S/C15H15NO3.ClH/c1-18-15(17)10-19-14-8-4-12(5-9-14)11-2-6-13(16)7-3-11;/h2-9H,10,16H2,1H3;1H
